US03975346
A dimethyl ethanolamine lactate was prepared by admixing 13.3 parts of dimethyl ethanolamine and 18.0 parts of lactic acid (88 percent solution in water). The mixture was held at 40°-60°C. for a short time and there was then added 7.2 parts of isopropanol. The final composition consisted of 75 percent solids and contained 7.1 percent water.

reactant | dimethyl ethanolamine | CN(CCO)C | C4H11NO
reactant | lactic acid | C(C(O)C)(=O)O | C3H6O3
reactant | isopropanol | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | dimethyl ethanolamine lactate | C(C(O)C)(=O)OCCN(C)C | C7H15NO3
